US08247401B2
Step C: N-[(1R)-1-(3-Methyl-1,2,4-oxadiazol-5-yl)ethyl]-3-(5-methylpyridin-2-yl)-5-(2-methylpyrimidin-5-yl)benzamide
To a solution of the sodium chloride salt of 3-(5-methylpyridin-2-yl)-5-(2-methylpyrimidin-5-yl)benzoic acid (35 mg, 0.073 mmol) in N,N-dimethylformamide (0.728 mL) was added the hydrochloride salt of (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine (17.5 mg, 0.087 mmol), EDC (16.8 mg, 0.087 mmol), HOBT (11.2 mg, 0.073 mmol), and triethylamine (0.041 mL, 0.291 mmol). After 16 h, water and trifluoroacetic acid were added. Purification by reverse phase chromatography (C-18, 95% water/acetonitrile→25% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (28.8 mg). HRMS 415.1880 (M+1). 1H NMR (500 MHz, CD3OD): δ 9.21 (s, 2H); 8.78 (s, 1H); 8.57-8.53 (m, 2H); 8.49 (d, J=9.5 Hz, 2H); 8.42 (d, J=8.3 Hz, 1H); 5.51 (q, J=7.2 Hz, 1H); 2.80 (s, 3H); 2.64 (s, 3H); 2.37 (s, 3H); 1.75 (d, J=7.1 Hz, 3H).

reactant | sodium chloride salt | [Cl-].[Na+]
reactant | 3-(5-methylpyridin-2-yl)-5-(2-methylpyrimidin-5-yl)benzoic acid | 0.073 mmol, 35 mg | CC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C=1C=NC(=NC1)C | C18H15N3O2
reactant | (1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethanamine | 0.087 mmol, 17.5 mg | CC1=NOC(=N1)[C@@H](C)N | C5H9N3O
reactant | EDC | 0.087 mmol, 16.8 mg
reactant | HOBT | 0.073 mmol, 11.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.291 mmol, 0.041 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 0.728 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[(1R)-1-(3-Methyl-1,2,4-oxadiazol-5-yl)ethyl]-3-(5-methylpyridin-2-yl)-5-(2-methylpyrimidin-5-yl)benzamide | 28.8 mg | CC1=NOC(=N1)[C@@H](C)NC(C1=CC(=CC(=C1)C=1C=NC(=NC1)C)C1=NC=C(C=C1)C)=O | C23H22N6O2
